US05380834
Preparation of 1,6-anhydro-3-O-p-toluenesulfonyl-4-deoxy-β -D-glycero-hex-3-enopyranos-2-ulose (Intermediate No. 3)
360 mg of pyridinium chlorochromate was added to 20 ml of a dry methylene chloride solution containing 50 mg of 1,6-anhydro-3-O-p-toluenesulfonyl-4-deoxy-β-D-erythro-hex-3-enopyranose, and the mixture was stirred at room temperature for 48 hours. Disappearance of the starting material was confirmed by thin layer chromatography, and then 60 ml of diethyl ether was added thereto. The mixture was further stirred at room temperature for 15 minutes. Then, the reaction mixture was filtered by silica gel and washed with 200 ml of diethyl ether. The washing solution was concentrated under reduced pressure together with the filtrate. The obtained syrup crude product was purified by silica gel column chromatography (ethyl acetate: hexane=1:2) to obtain 34 mg of the desired product (Intermediate No. 3) as a colorless transparent liquid. The NMR analytical data of this product are as follows.

reactant | pyridinium chlorochromate | 360 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | 1,6-anhydro-3-O-p-toluenesulfonyl-4-deoxy-β-D-erythro-hex-3-enopyranose | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)OC=1[C@H]([C@H]2O[C@@H](C1)CO2)O)C | C13H14O6S
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 1,6-anhydro-3-O-p-toluenesulfonyl-4-deoxy-β -D-glycero-hex-3-enopyranos-2-ulose | 34 mg | C1(=CC=C(C=C1)S(=O)(=O)OC=1C([C@H]2O[C@@H](C1)CO2)=O)C | C13H12O6S
